US07514566B2
(S)-tert-Butyl 3-(4-chlorophenyl)-1-thioureidopropan-2-ylcarbamate
A mixture of (S)-1-(2-amino-3-(4-chlorophenyl)propyl)-3-benzoylthiourea (5.50 g, 15.8 mmol), di-tert-butyl dicarbonate (3.80 g, 17.4 mmol), and TEA (3.30 mL, 23.7 mmol) in MeOH (60 mL) was stirred at room temperature overnight. The solvent was removed in vacuo. The residue was then partitioned between EtOAc and water. The combined organic portions were washed with brine, and the solvent was removed in vacuo. The mixture was then stirred with K2CO3 (6.56 g, 47.4 mmol) in MeOH (20 mL) at room temperature overnight. The solvent was removed in vacuo, and the residue was partitioned between EtOAc and water. The combined organic portions were washed with brine. The crude product was purified by flash column chromatography (0 to 70% of EtOAc in hexanes). The product was obtained as a white foamy solid, 4.04 g, 74%. 1H NMR (300 MHz, CD3OD) δ 1.27-1.45 (m, 9H), 2.45-2.96 (m, 2H), 3.34-3.97 (m, 3H), 7.14-7.34 (m, 4H). LCMS (API-ES): 344.1/346.1 (M++H), chloro pattern.

reactant | (S)-1-(2-amino-3-(4-chlorophenyl)propyl)-3-benzoylthiourea | 15.8 mmol, 5.50 g | N[C@H](CNC(=S)NC(C1=CC=CC=C1)=O)CC1=CC=C(C=C1)Cl | C17H18ClN3OS
reactant | di-tert-butyl dicarbonate | 17.4 mmol, 3.80 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | K2CO3 | 47.4 mmol, 6.56 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 60 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
product | (S)-tert-Butyl 3-(4-chlorophenyl)-1-thioureidopropan-2-ylcarbamate | ClC1=CC=C(C=C1)C[C@@H](CNC(=S)N)NC(OC(C)(C)C)=O | C15H22ClN3O2S
